US04908363
3.30 g of 1-[N-formyl-N-(4-hydroxy-3,5-di-tert.-butylbenzyl)amino]imidazole are dissolved in 100 ml of absolute tetrahydrofuran. Into this solution there are injected at room temperature 20 ml of a 2 molar solution of borane-dimethyl sulfide complex [BH3.S(CH3)2 ] in toluene. The reaction mixture is subsequently heated to gentle reflux for 2 hours, cooled to 0°, treated with 20 ml of absolute methanol and heated for an additional 30 minutes. The solvent is removed completely by evaporation under reduced pressure on a rotary evaporator. The residual crystalline solid is triturated with n-hexane, removed by filtration and vacuum-dried for a short period. Thereupon, the solid obtained is suspended in 50 ml of absolute methanol and hydrogen chloride is introduced carefully while stirring up to saturation, whereby a clear solution results with strong warming. This solution is heated to gentle reflux for 1 hour and then evaporated under reduced pressure on a rotary evaporator. The residue is treated with 25 ml of ice-cold water, whereupon saturated sodium bicarbonate solution is added to a weakly alkaline reaction and the mixture is extracted three times with 25 ml of methylene chloride each time. The combined methylene chloride extracts are washed once with a small amount of water and subsequently with saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue is recrystallized from ethyl acetate/n-hexane and there is obtained 1-[N-(4-hydroxy-3,5-di-tert.-butylbenzyl)-N-methylamino]imidazole of m.p. 139°.

reactant | 1-[N-formyl-N-(4-hydroxy-3,5-di-tert.-butylbenzyl)amino]imidazole | 3.30 g | C(=O)N(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)N1C=NC=C1 | C19H27N3O2
reactant | borane-dimethyl sulfide | CSC.B
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 1-[N-(4-hydroxy-3,5-di-tert.-butylbenzyl)-N-methylamino]imidazole | OC1=C(C=C(CN(C)N2C=NC=C2)C=C1C(C)(C)C)C(C)(C)C | C19H29N3O
